US05874472
To a stirred solution of diisopropylamine (8.81 g, 87.0 mmol) in tetrahydrofuran (300 ml) at 0° C. was added 1.6M n-butyllithium in hexanes (54 ml, 86.4 mmol) over a 10 minute period. The resulting yellow mixture was stirred for 30 minutes, cooled to -78° C. and hexamethylphosphoramide (15.5 g, 86.2 mmol) was added. To this mixture was added ethyl N-(diphenylmethylene) glycinate (23.0 g, 86.0 mmol) in tetrahydrofuran (100 ml) over a 20 minute period. The dark orange mixture was stirred for 1 hour and then a solution of 2-bromomethyl-5-nitrothiophene (19.0 g, 85.6 mmol) in tetrahydrofuran (100 ml) was added over a 20 minute period. The mixture was stirred for 1 hour and then warmed to 0° C. After quenching with approximately 150 ml of ice-cold water, the mixture was concentrated at reduced pressure. The remaining aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulphate. The solvent was removed at reduced pressure and the resulting dark brown oil was filtered through silica gel eluting with 25% ethyl acetate/hexane to remove excess diisopropylamine . The filtrate was concentrated at reduced pressure and the resulting dark brown oil was placed in vacuo overnight. Ethyl N-diphenylmethylene-3-(5-nitro-2-thienyl)-DL-alaninate (35.3 g) was obtained as a viscous dark brown oil. The product was used without further purification.

reactant | diisopropylamine | 87.0 mmol, 8.81 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexamethylphosphoramide | 86.2 mmol, 15.5 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | ethyl N-(diphenylmethylene) glycinate | 86.0 mmol, 23.0 g | CCOC(=O)CN=C(C1=CC=CC=C1)C2=CC=CC=C2 | C17H17NO2
reactant | 2-bromomethyl-5-nitrothiophene | 85.6 mmol, 19.0 g | BrCC=1SC(=CC1)[N+](=O)[O-] | C5H4BrNO2S
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl N-diphenylmethylene-3-(5-nitro-2-thienyl)-DL-alaninate | 35.3 g | C1(=CC=CC=C1)C(=NC(CC=1SC(=CC1)[N+](=O)[O-])C(=O)OCC)C1=CC=CC=C1 | C22H20N2O4S
